US05360802
Step 7: N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'- [3-(1,1-dimethylethylsulphonylaminocarbonyl)phenyl]urea
The title compound was prepared in the same way as that described in Example 11, Step 4, using 5-cyclohexyl-1,3-dihydro-1-methyl- 3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (0.3 g, 0.69 mmol), triethylamine (96 μl, 0.69 mmol), dimethylformamide (6 ml) and 1-(1,1-dimethylethylsulphonylaminocarbonyl)-3-aminobenzene (0.19 g, 0.76 mmol). The product (176 mg, 46%) was afforded as a colourless solid after recrystallisation from ethanol. mp 180° C. (dec.). 1H NMR (360 MHz, D6-DMSO) δ 0.84-0.98 (1H, m), 1.38 (9H, s), 1.08-1.65 (7H, m), 1.71-1.81 (1H, m), 1.86-1.94 (1H, m), 2.88-2.98 (1H, m), 3.32 (3H, s), 5.08 (1H, d, J=8.3 Hz), 7.29-7.42 (4H, m), 7.54 (1H, s), 7.56 (1H, s), 7.64 (1H, t, J=7.7 Hz), 7.75 (1H, d, J= 7.9 Hz), 7.84 (1H, s), 9.19 (1H, s), 11.51 (1H, brs).

reactant | 5-cyclohexyl-1,3-dihydro-1-methyl- 3(R,S)-[(4-nitrophenyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 0.69 mmol, 0.3 g | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)C)=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-] | C23H24N4O5
reactant | triethylamine | 0.69 mmol, 96 μl | C(C)N(CC)CC | C6H15N
reactant | 1-(1,1-dimethylethylsulphonylaminocarbonyl)-3-aminobenzene | 0.76 mmol, 0.19 g | CC(C)(S(=O)(=O)NC(=O)C1=CC(=CC=C1)N)C | C11H16N2O3S
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | N-[3(R,S)-5-Cyclohexyl-2,3-dihydro-1-methyl-2-oxo-1H-1,4-benzodiazepin-3-yl]N'- [3-(1,1-dimethylethylsulphonylaminocarbonyl)phenyl]urea | C1CCCC(C1)C1(C(N(C2=C(C=N1)C=CC=C2)C)=O)NC(=O)NC2=CC(=CC=C2)C(=O)NS(=O)(=O)C(C)(C)C | C28H35N5O5S
